US06660739B1
E. 1-(1-boc-Piperidin-4-ylcarbonyl)-4-(6-chloronaphthalen-2-ylsulfonyl)piperazine
To a stirring solution of N-Boc-isonipecotic acid (1.99 g, 8.7 mmol) in THF (50 mL) was added sodium ethoxide (0.592 g, 8.7 mmol) After 0.5 h, the solvent was removed in vacuo and the residue was suspended in dichloromethane (50 mL). To this mixture was added a couple drops of DMF, followed by oxalyl chloride (1.32 g, 10.4 mmol). After stirring for another hour, the solvent was removed in vacuo and the crude acid chloride resuspended in dichloromethane (25 mL). To this solution was added a solution of 1-(6-chloronaphthalen-2-ylsulfonyl)piperazine (1.8 g, 5.8 mmol) and pyridine (5 mL) in dichloromethane (25 mL) After stirring overnight, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The layers were separated and the organic phase was washed twice with 1 M citric acid, once with brine, twice with satd aq NaHCO3 and twice again with brine, then dried with MgSO4, filtered and concentrated in vacuo. The residue was then dissolved in a minimum amount of dichloromethane and chromatographed over silica gel, eluting with a step gradient of 35% ethyl acetate in hexanes through 75% ethyl acetate in hexanes. The product containing fractions were combined and concentrated in vacuo to give 2.1 g (69%) of a white foam.

reactant | N-Boc-isonipecotic acid | 8.7 mmol, 1.99 g | C(=O)(OC(C)(C)C)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | sodium ethoxide | 8.7 mmol, 0.592 g | [O-]CC.[Na+]
reactant | oxalyl chloride | 10.4 mmol, 1.32 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(6-chloronaphthalen-2-ylsulfonyl)piperazine | 5.8 mmol, 1.8 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1 | C14H15ClN2O2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1-(1-boc-Piperidin-4-ylcarbonyl)-4-(6-chloronaphthalen-2-ylsulfonyl)piperazine | 2.1 g, 69% | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C25H32ClN3O5S
